US07019022B2
The diastereomeric mixture of ethyl[(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate and ethyl[(1S)-9-[(1S)-1-(4-chlorophenyl)-ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate (1 eq) was dissolved in a 3.5/1 mixture of THF/MeOH (0.25M) and cooled at 0° C. Aqueous LiOH 1N (1 eq) was slowly added and the mixture was stirred at 0° C. for 12 h or until almost complete hydrolysis of ethyl[(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate, the other diastereomer was only slightly hydrolyzed under these conditions. AcOH was added and the solvent was removed by evaporation. The residue was taken up in EtOAc/H2O and the organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. Ethyl[(1S)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate and [(1R)-9-[(1S)-1-(4-chloro-phenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid were separated by flash chromatography eluting with 40% EtOAc in hexanes containing 1% AcOH to give the desired [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid with de>90% which was swished in 30% EtOAc in hexane to give the desired compound as a white solid with de>95%.

reactant | ethyl[(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | C(C)OC(C[C@H]1CCCC=2C3=CC(=CC(=C3N(C12)[C@@H](C)C1=CC=C(C=C1)Cl)S(=O)(=O)C)F)=O | C25H27ClFNO4S
reactant | ethyl[(1S)-9-[(1S)-1-(4-chlorophenyl)-ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetate | 1 eq | C(C)OC(C[C@@H]1CCCC=2C3=CC(=CC(=C3N(C12)[C@@H](C)C1=CC=C(C=C1)Cl)S(=O)(=O)C)F)=O | C25H27ClFNO4S
reactant | LiOH | 1N, 1 eq | [Li+].[OH-]
reactant | AcOH | CC(=O)O | C2H4O2
solvent | THF MeOH | 0.25M | C1CCOC1.CO
product | [(1R)-9-[(1S)-1-(4-chlorophenyl)ethyl]-6-fluoro-8-(methylsulfonyl)-2,3,4,9-tetrahydro-1H-carbazol-1-yl]acetic acid | ClC1=CC=C(C=C1)[C@H](C)N1C2=C(C=C(C=C2C=2CCC[C@@H](C12)CC(=O)O)F)S(=O)(=O)C | C23H23ClFNO4S
